US06114390
b) 1-[(4-Cyanophenyl)methyl]-imidazolidin-2-one
To a solution of 20.0 g (84.1 mMol) of 1-(2-chloroethyl)-3-[(4-cyanophenyl)methyl]-urea in 200 ml of anhydrous dimethylformamide were added, in batches and at ambient temperature, 11.2 g (99.8 mMol) of potassium-tert.butoxide and the mixture was then stirred for 2 hours at +40° C. The reaction mixture was evaporated down in vacuo, the residue remaining was distributed between water and ethyl acetate, the organic phase was dried over sodium sulphate, clarified over activated charcoal and evaporated down in vacuo once more. The residue was triturated with tert.butyl-methylether, suction filtered and dried in a vacuum dryer. 3.0 g (18% of theory) of colourless crystals were obtained, Mp. 117-118° C.

reactant | 1-(2-chloroethyl)-3-[(4-cyanophenyl)methyl]-urea | 84.1 mMol, 20.0 g | ClCCNC(=O)NCC1=CC=C(C=C1)C#N | C11H12ClN3O
reactant | potassium tert.butoxide | 99.8 mMol, 11.2 g | [K].CC(C)([O-])C
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 1-[(4-Cyanophenyl)methyl]-imidazolidin-2-one | C(#N)C1=CC=C(C=C1)CN1C(NCC1)=O | C11H11N3O
